US07452895B2
N4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenyl]-N6-(1-oxa-3,8-diaza-spiro[4.5]dec-2-en-2-yl)-quinazoline-4,6-diamine is prepared from 2-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-quinazolin-6-ylamino}-1-oxa-3,8-diaza-spiro[4.5]dec-2-ene-8-carboxylic acid tert-butyl ester by standard BOC deprotection methods using TFA in methylene chloride. MS ESI (+) m/z 516, 518 (M+1, Cl pattern) detected; 1H NMR (400 mHz, CDCl3) δ 8.61 (s, 1H), 8.58 (d, 1H), 8.22 (bs, 1H), 7.97 (d, 1H), 7.70 (m, 2H), 7.67 (d, 1H), 7.64 (dd, 1H), 7.35 (d, 1H), 7.26 (m, 1H), 7.02 (d, 1H), 5.31 (s, 2H), 3.73 (s, 2H), 3.05 (m, 2H), 2.96 (m, 2H), 1.97 (m, 2H), 1.80 (m, 2H).

reactant | 2-{4-[3-chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-quinazolin-6-ylamino}-1-oxa-3,8-diaza-spiro[4.5]dec-2-ene-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CN=C(O2)NC=2C=C3C(=NC=NC3=CC2)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl)CC1 | C32H34ClN7O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenyl]-N6-(1-oxa-3,8-diaza-spiro[4.5]dec-2-en-2-yl)-quinazoline-4,6-diamine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=C(C=C12)NC=1OC2(CN1)CCNCC2 | C27H26ClN7O2
